US04348399
A mixture of 6.0 g. of ethyl (4-hexadecylaminophenyl)acetate, 7.0 g. of potassium hydroxide and 100 ml. of ethanol-water (9:1) is heated to reflux for 4 hours. While hot, the mixture is adjusted to pH 7 with conc. hydrochloric acid. The mixture is diluted with water cooled and filtered. Recrystallization of the precipitate yields (4-hexadecylaminophenyl)acetic acid.

reactant | ethyl (4-hexadecylaminophenyl)acetate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C=C1)CC(=O)OCC | C26H45NO2
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol water | C(C)O.O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | (4-hexadecylaminophenyl)acetic acid | C(CCCCCCCCCCCCCCC)NC1=CC=C(C=C1)CC(=O)O | C24H41NO2
